US05977141
(b) [4-(4-Phenyl-piperidin-1-yl)benzenesulfonyl-amino]acetic acid
A stirred mixture of (4-fluoro-benzenesulfonyl-amino)-acetic acid (0.0895 g, 0.000384 mol), 4-phenyl-piperidine (0.618 g, 0.000383 mol), and potassium carbonate (0.109 g, 0.000789 mol) in dry dimethyl sulfoxide (0.10 mL) in a tightly capped vial was placed in a hot sand bath (115° C.). After 21 hours, the reaction mixture was cooled and partitioned between ethyl acetate and water. The mixture was acidified with 1M hydrochloric acid (3.2 mL, 0.0032 mol) and the layers were separated. The aqueous layer was washed with additional ethyl acetate. The organics were combined, dried (MgSO4), and rotary evaporated to give a glass. The glass was dissolved in methanol, silica gel was added (4.2 g, 230-400 mesh), and the mixture was rotary evaporated to dryness. The resulting powder was poured onto a column of silica gel (14 g, 230-400 mesh), and eluted with a mixture of hexanesethyl acetate-acetic acid (15:15:1, 11×15 mL). Fractions containing product were combined and rotary evaporated. The residue was crystallized from methanol-water (1:1) after a hot filtration to give the title compound as a pale yellow solid; yield 0.070 g (49%), mp=154.5-155.5° C.

reactant | (4-fluoro-benzenesulfonyl-amino)-acetic acid | 0.000384 mol, 0.0895 g | FC1=CC=C(C=C1)S(=O)(=O)NCC(=O)O | C8H8FNO4S
reactant | 4-phenyl-piperidine | 0.000383 mol, 0.618 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | potassium carbonate | 0.000789 mol, 0.109 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 0.0032 mol, 1M, 3.2 mL | Cl | ClH
solvent | dimethyl sulfoxide | 0.10 mL | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | [4-(4-Phenyl-piperidin-1-yl)benzenesulfonyl-amino]acetic acid | C1(=CC=CC=C1)C1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)NCC(=O)O | C19H22N2O4S
